US07666864B2
Step 3: N-({(5S)-3-[3-Fluoro-4-(6-{4-[(2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b][1,3]oxazol-2-yl)methyl]-1-piperazinyl}-3-pyridinyl)phenyl]-2-oxo-1,3-oxazolidin-5-yl}methyl)acetamide.
A solution of N-[((5S)-3-{3-fluoro-4-[6-(1-piperazinyl)-3-pyridinyl]phenyl}-2-oxo-1,3-oxazolidin-5-yl)methyl]acetamide (0.147 g, 0.355 mmol), 2-bromo-1-[(2-methyl-2-oxiranyl)methyl]-4-nitro-1H-imidazole (0.092 g, 0.35 mmol) and diisopropylethylamine (70 μL, 0.40 mmol) in ethoxyethanol (10 mL) was refluxed for 2.5 h. The solution was evaporated onto silica gel, column chromatography (0-10% MeOH/EtOAc, gradient elution) gave a solid which was reprecipitated from refluxing MeOH to give the titled compound (25 mg, 12%) as a cream solid. APCI MS m/z 595 (M+H). 1H NMR (400 MHz, DMSO-d6) δ 8.28 (bs, 1H), 8.21 (t, J=5.8 Hz, 1H), 8.12 (s, 1H), 7.70 (bdt, J=9.0, 2.2 Hz, 1H), 7.51-7.59 (m, 2H), 7.37 (dd, J=8.6, 2.2 Hz, 1H), 6.88 (d, J=9.0 Hz, 1H), 4.71-4.79 (m, 1H), 4.29 (d, J=10.7 Hz, 1H), 4.15 (t, J=9.0 Hz, 1H), 4.09 (d, J=10.7 Hz, 1H), 3.77 (dd, J=9.2, 6.5 Hz, 1H), 3.31-3.47 (m, 6H), 2.82 (d, J=14.7 Hz, 1H), 2.78 (d, J=14.7 Hz, 1H), 2.72-2.79 (m, 4H), 1.84 (s, 3H), 1.58 (s, 3H).

reactant | N-[((5S)-3-{3-fluoro-4-[6-(1-piperazinyl)-3-pyridinyl]phenyl}-2-oxo-1,3-oxazolidin-5-yl)methyl]acetamide | 0.355 mmol, 0.147 g | FC=1C=C(C=CC1C=1C=NC(=CC1)N1CCNCC1)N1C(O[C@H](C1)CNC(C)=O)=O | C21H24FN5O3
reactant | 2-bromo-1-[(2-methyl-2-oxiranyl)methyl]-4-nitro-1H-imidazole | 0.35 mmol, 0.092 g | BrC=1N(C=C(N1)[N+](=O)[O-])CC1(OC1)C | C7H8BrN3O3
reactant | diisopropylethylamine | 0.40 mmol, 70 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethoxyethanol | 10 mL | C(C)OC(C)O | C4H10O2
product | N-({(5S)-3-[3-Fluoro-4-(6-{4-[(2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b][1,3]oxazol-2-yl)methyl]-1-piperazinyl}-3-pyridinyl)phenyl]-2-oxo-1,3-oxazolidin-5-yl}methyl)acetamide | 25 mg, 12% | FC=1C=C(C=CC1C=1C=NC(=CC1)N1CCN(CC1)CC1(CN2C(O1)=NC(=C2)[N+](=O)[O-])C)N2C(O[C@H](C2)CNC(C)=O)=O | C28H31FN8O6
